US06384028B1
A solution of LiOH (79 mg) in H2O (10 ml) was added to a solution of N-[(R)-1-[3-(1-tert-butoxycarbonyl-4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-3(S)-ethynyl-β-alanine ethyl ester (1.34 g) in tetrahydrofuran (10 ml)-EtOH (10 ml) at 0° C. The reaction mixture was stirred for 3 hours at the same condition, and the solvent was evaporated in vacuo. The residue was resolved in ethyl acetate-water, and acidified with 10% aq. KHSO4. The whole was washed with water, brine, dried over MgSO4, and evaporated in vacuo to give N-[(R)-1-[3-(1-tert-butoxycarbonyl-4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-3(S)-ethynyl-β-alanine (1.23 g).

reactant | LiOH | 79 mg | [Li+].[OH-]
reactant | N-[(R)-1-[3-(1-tert-butoxycarbonyl-4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-3(S)-ethynyl-β-alanine ethyl ester | 1.34 g | C(C)OC(C[C@H](NC(=O)[C@H]1CN(CCC1)C(\C=C\C1CCN(CC1)C(=O)OC(C)(C)C)=O)C#C)=O | C26H39N3O6
reactant | EtOH | 10 ml | CCO | C2H6O
solvent | H2O | 10 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-[(R)-1-[3-(1-tert-butoxycarbonyl-4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-3(S)-ethynyl-β-alanine | 1.23 g | C(C)(C)(C)OC(=O)N1CCC(CC1)/C=C/C(=O)N1C[C@@H](CCC1)C(=O)N[C@@H](CC(=O)O)C#C | C24H35N3O6
